US04483982
Methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide (I; Y=OCH3)
To 27 ml. of dimethylsulfoxide containing 5.18 g. (26.3 mmoles) of N-methylsaccharin and 4.6 ml. (52.5 mmoles) of methyl chloroacetate at 25° C. was added 14.1 g. (126 mmoles) of potassium t-butoxide in 44 ml. of the same solvent at the rate of 0.1 ml. every minute. After 42.2 ml. of the potassium t-butoxide solution had been added the addition was stopped. During the addition the reaction temperature was maintained at about 30°-32° C.

reactant | N-methylsaccharin | 26.3 mmoles | CN1S(=O)(=O)C2=CC=CC=C2C1=O | C8H7NO3S
reactant | methyl chloroacetate | 52.5 mmoles | ClCC(=O)OC | C3H5ClO2
reactant | potassium t-butoxide | 126 mmoles | CC(C)([O-])C.[K+]
solvent | dimethylsulfoxide | 5.18 g | CS(=O)C | C2H6OS
product | Methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC | C11H11NO5S
